reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:9])([H:10])[H:11].[O:1]([C:2][H:8])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],27.0054103650063
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],97.28386456627081
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:10].[N:2]#[C:3][H:11],98.3151431072712
[C:1](/[C:2](=[C:3](\[C:4]([H:14])([H:15])[H:16])[H:13])[H:12])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:11])[H:18])\[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],34.615866273773584
[O-:1][C:2]1=[C:3]([H:7])[N+:4]([H:6])([H:8])[C:5]1([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10],30.8379316979902
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:7]1([H:17])[C:4](=[O:5])[C:6]1([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],75.9575102288958
[c:1]1([H:7])[c:2]([H:8])[n:3][c:4]([H:9])[c:5]([H:10])[n:6]1>>[C:1]1([H:7])=[N:6][C@@:5]2([H:10])[N:3]3[C@:2]1([H:8])[C@:4]32[H:9],89.82006704570459
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@:4]([O:5][H:15])([C:6](=[O:7])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],41.477440849454396
[N:1](=[C:2](/[N:3]=[C:4](/[O:5][H:8])[H:9])[H:7])\[H:6]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],30.018383719386996
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:7][C:6]([C:5]([C@@:3]([O:2][H:19])([C:4]([H:12])([H:13])[H:14])[H:11])([H:15])[H:16])([H:17])[H:18])([H:8])([H:9])[H:10],83.865649612612
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C-:5]=[N+:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],79.7031415233464
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1=[C:4]=[C:5]([O:6][H:14])[H:12].[H:9][H:13],94.2511998092256
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4]([O:5][H:15])=[C:6](/[O:7][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],71.9721255976129
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]2([H:11])[C:3]([H:12])([H:13])[C@:4]2([H:14])[C:5]([H:15])([H:16])[C@@:6]1([O:7][H:9])[H:17],76.0229429240508
[C+:1]([N:2]([C:3](=[C:4]=[N-:5])[H:11])[H:9])([H:6])[H:7].[H:8][H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],17.517091124648005
[C:1](/[C:2](=[C:3](\[O:5][H:15])[H:11])[H:9])([H:6])([H:7])[H:8].[C:4]([H:10])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],93.10642204155592
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[O:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])[H:12],68.6367247580383
[N:1]([C:2](=[C:6]=[N:7][C@:4]([C:3]([H:11])([H:12])[H:14])([O:5][H:15])[H:13])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],73.67194931015561
[C:1]([C:2][O:3][H:10])([H:6])([H:7])[H:8].[C:4]([O:5][H:13])([H:9])([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],51.917403221142294
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:7])[H:10])([C:6](=[C:5]=[C:4]([H:14])[H:15])[H:16])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],99.93887221980762
[C:1]([C@@:2]1([H:11])[N:3]([H:12])[C:4]([H:13])([H:14])[C:5][N:6]1[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],47.95544219874801
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:6](=[C:5]=[C:3]=[O:4])[H:8])[H:7],55.361081644813396
[C:1]([N:3]=[C:2]=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],75.1093606437379
